US04948796
1.73 g of (E)-3-(3-cyanophenyl)acrylic acid was suspended in 8.7 ml of tetrahydrofuran. To the suspension was added 1.11 g of triethylamine. To the mixture was dropwise added a solution of 1.14 g of ethyl chlorocarbonate dissolved in 3.0 ml of tetrahydrofuran, at -20° to -10° C. The mixture was stirred for 30 minutes at 0° C. The reaction mixture was mixed with 2 ml of ethyl acetate and 20 ml of a saturated aqueous sodium chloride solution. The organic layer was separated and washed with a saturated aqueous sodium chloride solution to obtain a solution containing a mixed acid anhydride of (E)-3-(3-cyanophenyl)acrylic acid. To this solution was added 380 mg of sodium borohydride with ice-cooling. The mixture was stirred for 1 hour at the same temperature. To the reaction mixture was added 20 ml of water and 10 ml of ethyl acetate. The organic layer was separated, washed with a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was purified by a column chromatography (eluant: n-hexane/acetone=5/1) to obtain 1.37 g of colorless oily (E)-3-(3-cyanophenyl)allyl alcohol.

reactant | (E)-3-(3-cyanophenyl)acrylic acid | 1.73 g | C(#N)C=1C=C(C=CC1)/C=C/C(=O)O | C10H7NO2
reactant | ethyl chlorocarbonate | 1.14 g | C(OCC)(=O)Cl | C3H5ClO2
reactant | sodium chloride | 20 ml | [Cl-].[Na+]
reactant | sodium borohydride | 380 mg | [BH4-].[Na+]
solvent | tetrahydrofuran | 8.7 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3.0 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 20 ml | O | H2O
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 1.11 g | C(C)N(CC)CC | C6H15N
product | (E)-3-(3-cyanophenyl)allyl alcohol | 1.37 g | C(#N)C=1C=C(C=CC1)/C=C/CO | C10H9NO
